US07148226B2
2-Ethyl-5-methyl-phenol
A mixture of 1-(2-hydroxy-4-methyl-phenyl)-ethanone (5 g, 33.3 mmol) and 10 wt % Pd/C (2 g, Degussa type) in MeOH (50 mL) was stirred under a balloon of H2 for 24 hours. The reaction mixture was filtered through a pad of celite washing with EtOAc. The filtrate was concentrated to a clear oil (4.5 g, 99%). 1H NMR (400 MHz, CDCl3): δ 1.23 (t, J=7.6 Hz, 3 H), 2.27 (s, 3 H), 2.59 (q, J=7.6 Hz, 2 H), 4.68 (s, 1 H), 6.59 (s, 1 H), 6.71 (d, J=7.7 Hz, 1 H), 7.01 (d, J=7.7 Hz, 1 H).

reactant | 1-(2-hydroxy-4-methyl-phenyl)-ethanone | 33.3 mmol, 5 g | OC1=C(C=CC(=C1)C)C(C)=O | C9H10O2
solvent | MeOH | 50 mL | CO | CH4O
catalyst | Pd/C | 2 g | [Pd] | Pd
product | 2-Ethyl-5-methyl-phenol | C(C)C1=C(C=C(C=C1)C)O | C9H12O
